Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[O:7][C@@:5]([O:4][H:11])([C:6]([H:15])([H:16])[H:17])[H:14])([H:8])([H:9])[H:10],65.3919096300663
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C:2]([H:9])([H:10])[N:3]1[H:11].[C:4](=[O:5])([H:8])[H:12],102.148226216385
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]1([H:8])[C:2]2([O:3][C:4]([H:9])([H:10])[C:5]2=[C:6]([H:11])[H:12])[N:7]1[H:13],95.562311844574
[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3]1([C:4][H:10])[H:6]>>[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7],28.5990677805923
[O:1](/[C:2](=[C:3](/[O:4][N+:6]#[C-:5])[H:9])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],13.16267467880381
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]=[O:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[N:6]([H:13])([H:14])[H:15],66.7572639572509
[C:1](#[C:2][C:3](=[C:4]=[C:5]([C:6](=[O:7])[H:11])[H:10])[H:9])[H:8]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],49.431659901443794
[C:1]([C@:2]1([H:10])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:11])([H:16])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],75.04293446944112
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:6][C@:5]1([C:7]([H:13])([H:14])[H:15])/[C:3](=[N:2]\[H:11])[N:4]1[H:12])([H:8])([H:9])[H:10],80.83422493566499
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C:3]#[C:4][H:8].[O:5]=[N+:6]=[N-:7],65.3520634598149
[C:1](=[O:2])([H:7])[H:9].[C:3](=[O:4])=[C:5]=[C:6]([H:8])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],22.422488485342306
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[O:1]=[C:2]([C:5](=[O:6])[H:12])[H:7],73.8160546748473
[C+:2]([C:3](=[N-:4])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11].[C:1]([O:5][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],10.518423406681194
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]([O:6][C:5]([C:4]([C:3][H:8])([H:9])[H:10])([H:11])[H:12])[H:7],61.0968959693658
[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[C:5](/[O:6][H:12])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],50.1334707263583
[N:1](=[C:2]=[C:3]([H:6])[H:7])[C:4]#[N:5]>>[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7],73.0486632037314
[C:6]([O:7][H:16])[H:14].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:12])([H:13])[H:15])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],12.159785233461498
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([N:4]([N:3])[H:10])[C:6](=[O:5])[H:9])[H:8],95.8727935750132
[C:1](=[C:2]1[C:3]([H:10])([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],62.27711149123252
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])(/[C:4]([O:5][H:13])=[C:6](/[O:7][H:14])[H:15])[H:11])([H:8])([H:9])[H:10],60.447602772738286
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:7](=[C:6]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],52.9471324361701
[C-:1]1([H:9])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6]([H:19])=[O+:7]1.[H:8][H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.581986063513796
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2](/[N+:3](=[C:4](/[C:5]([C-:6]=[C:7]([H:11])[H:14])([H:12])[H:13])[H:10])[H:9])[H:8],67.6752236697908
[O:1]([C@:2]12[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C@@:6]1([H:13])[N:7]2[H:15])[H:14]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],44.90020274213748
[C:1]([H:8])([H:9])([H:10])[H:17].[C:2](/[C:3](=[N:5]/[C:6](=[O:7])[H:18])[H:13])([C:4]([H:14])([H:15])[H:16])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],72.01014912109119
